US05175157
3-[(N-(2-(4-Methoxy-phenyl)-ethyl)-hexahydro-azepin-3-yl)methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepinehydrochloride
Prepared from 7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine and N-[2-(4-methoxy-phenyl)-ethyl]-3-chloromethylhexahydro-azepine analogously to Example 2.

reactant | 7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine | COC1=CC2=C(CC(NCC2)=O)C=C1OC | C12H15NO3
reactant | N-[2-(4-methoxy-phenyl)-ethyl]-3-chloromethylhexahydro-azepine | COC1=CC=C(C=C1)CCN1CC(CCCC1)CCl | C16H24ClNO
product | 3-[(N-(2-(4-Methoxy-phenyl)-ethyl)-hexahydro-azepin-3-yl)methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepinehydrochloride | Cl.COC1=CC=C(C=C1)CCN1CC(CCCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | InChI=1S/C28H38N2O4.ClH/c1-32-25-9-7-21(8-10-25)11-14-29-13-5-4-6-22(19-29)20-30-15-12-23-16-26(33-2)27(34-3)17-24(23)18-28(30)31;/h7-10,16-17,22H,4-6,11-15,18-20H2,1-3H3;1H
